US04049823
2.56 g. of 1-methoxy-3-p-biphenylyl-3-butanol (obtainable from 3-methoxy-1-p-biphenylyl-1-propanone and CH3MgI) is boiled for 2 hours with a mixture of 5 ml. of 48% aqueous HBr and 5 ml. of acetic acid, 10 ml. of 10% methanolic KOH are added and boiling is continued for a further 2 hours and the mixture is worked up using water and chloroform to give 3-p-biphenylyl-1,3-butanediol, m.p. 115°-117°.

reactant | 1-methoxy-3-p-biphenylyl-3-butanol | COCCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C17H20O2
reactant | HBr | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | KOH | [OH-].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-p-biphenylyl-1,3-butanediol | C1(=C(C=CC=C1)C(CCO)(C)O)C1=CC=CC=C1 | C16H18O2
